US04072696
0.7 G. of 2-amino-1-(3-methoxycarbonyl-2-thioureido)-5- phenylthiobenzene, as prepared according to Example XI, is dissolved in 20 ml. tetrahydrofuran and treated with 1.5 ml. of acetyl chloride. The mixture is stripped after two hours and the residue recrystallized from methanol, yielding 2-acetamido-1-(3-methoxycarbonyl-2-thioureido)-5-phenylthiobenzene.

reactant | 2-amino-1-(3-methoxycarbonyl-2-thioureido)-5- phenylthiobenzene | NC1=C(C=C(C=C1)SC1=CC=CC=C1)NC(=S)NC(=O)OC | C15H15N3O2S2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-acetamido-1-(3-methoxycarbonyl-2-thioureido)-5-phenylthiobenzene | C(C)(=O)NC1=C(C=C(C=C1)SC1=CC=CC=C1)NC(=S)NC(=O)OC | C17H17N3O3S2
